US07820694B2
1-(3-Amino-4-benzyloxy-phenyl)-2-[benzyl-(5,6-diethyl-indan-2-yl)-amino]-ethanone is prepared from 2-[benzyl-(5,6-diethyl-indan-2-yl)-amino]-1-(4-benzyloxy-3-nitro-phenyl)-ethanone (1.50 g) by an analogous procedure to that used to prepare (R)-1-(3-Amino-4-benzyloxy-phenyl)-2-[benzyl-(5,6diethyl-indan-2-yl)-amino]ethanol in Example 19. The reaction is shown to be complete by TLC after 48 hours. The catalyst is filtered off and the solvent is removed m vacuo. The product is purified by flash column chromatography (silica, n-hexane/ethyl acetate 4:1). TLC (silica, n-hexane/ethyl acetate 2:1 Rf=0.70).

reactant | 2-[benzyl-(5,6-diethyl-indan-2-yl)-amino]-1-(4-benzyloxy-3-nitro-phenyl)-ethanone | 1.50 g | C(C1=CC=CC=C1)N(CC(=O)C1=CC(=C(C=C1)OCC1=CC=CC=C1)[N+](=O)[O-])C1CC2=CC(=C(C=C2C1)CC)CC | C35H36N2O4
reactant | (R)-1-(3-Amino-4-benzyloxy-phenyl)-2-[benzyl-(5,6diethyl-indan-2-yl)-amino]ethanol | NC=1C=C(C=CC1OCC1=CC=CC=C1)[C@H](CN(C1CC2=CC(=C(C=C2C1)CC)CC)CC1=CC=CC=C1)O | C35H40N2O2
product | 1-(3-Amino-4-benzyloxy-phenyl)-2-[benzyl-(5,6-diethyl-indan-2-yl)-amino]-ethanone | NC=1C=C(C=CC1OCC1=CC=CC=C1)C(CN(C1CC2=CC(=C(C=C2C1)CC)CC)CC1=CC=CC=C1)=O | C35H38N2O2
